US06566367B2
Add 1-ethoxyvinyltri-N-butyltin (0.49 g, 1.35 mmol) and bis (triphenyl-phosphine) palladium (II) chloride (0.05 g) to a solution of 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one (0.12 g, 0.27 mmol) in dioxane (5 mL). Reflux the reaction mixture for 12 hours. After cooling to ambient temperature, concentrate the reaction mixture in vacuo, and add to a solution of 10% HCl (2 mL) in THF (5 mL). After stirring for 30 minutes, dilute the solution with EtOAc (30 mL), and wash with saturated NaHCO3 (30 mL) and saturated aqueous NaCl (30 mL). Dry the organic portion over Na2SO4, filter and concentrate. Purify by preparative TLC (10% MeOH—CH2Cl2) to obtain 1′-(5-acetyl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a yellow solid.

reactant | 1′-(5-iodo-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | 0.27 mmol, 0.12 g | IC1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C19H16IN3O2
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | bis (triphenyl-phosphine) palladium (II) chloride | 0.05 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1′-(5-acetyl-1H-benzimidazol-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | C(C)(=O)C1=CC2=C(NC(=N2)N2CCC3(CC2)OC(C2=CC=CC=C23)=O)C=C1 | C21H19N3O3
